US04304767
2,4-dihydroxybenzaldehyde;
catechol; resorcinol; hydroquinone;

reactant | catechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 2,4-dihydroxybenzaldehyde | OC1=C(C=O)C=CC(=C1)O | C7H6O3
